Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
transfer from ___ for difficult-to-control hepatic hydrothorax, 
cirrhosis decompensated with ascites, ___
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ with EtOH/HCV cirrhosis Child's class C (complicated by 
ascites, varices, hepatic encephalopathy, SBP, alcoholic 
hepatitis), HCC, EtOH use, and COPD who is being transferred 
from ___ for a difficult-to-manage hepatic hydrothorax and 
possible COPD exacerbation, causing hypoxia. He is also noted to 
have a resolving ___ and decompensated cirrhosis, manifesting as 
ascites. 

He presented to ___ on ___ with worsening dyspnea. He was 
seen on ___ by interventional radiology at ___ for possible 
RFA of ___ lesions - at that time he was found to be SOB with 
significant pleural effusion on the right side. Sent to the ED, 
where he had a thoracentesis and was found to have hypoxia/new 
O2 requirement, ascites and Cr 1.6 (baseline 0.7-0.8). Admitted 
for management of volume overload. While admitted, he received 
diuresis with torsemide 20mg daily and spironolactone 100mg 
daily. The hepatic hydrothorax re-accumulated rapidly despite 
diuresis and improvement of creatinine/ascites/peripheral edema. 
He had a second thoracentesis on ___ (1.6L removed). The case 
was discussed with Dr ___ at ___, who accepted the patient for 
transfer for ongoing management of hepatic hydrothorax and 
consideration of TIPS. His creatinine improved to 1.0 by the 
time of transfer to ___.

On arrival, he reports feeling much improved as compared to 
arrival at ___ - abdominal distension is improved, peripheral 
edema is improved. He denies SOB, but reports that his voice 
sounds a little hoarse, which is a sign for him that his 
effusion is re-accumulating. No fever/chills.
 
Past Medical History:
#HCV cirrhosis c/b HE, HCC, ascites, SBP, varices
#HCV tx ___ years ago with interferon and ribavirin, no SVR  
#hiatal hernia  
#COPD  
#history of Lyme encephalitis and Bell's palsy
#s/p abdominal surgery in ___ secondary to an abdominal stab 
wounds.  
 
Social History:
___
Family History:
Father - AAA, lung cancer (smoker), dementia
Mother - COPD (smoker), HTN 
 
Physical Exam:
ADMISSION EXAM
==============
VS: T 97.8, BP 135/73, HR 91, RR 18, ___ NC 
GENERAL: well-appearing man, lying propped up in bed, NAD. 
Alert.
HEENT: no scleral icterus, MMM
CARDIAC:  RRR, S1+S2, no M/R/G
PULMONARY:  absent breath sounds over lower ___ R lung, 
otherwise CTAB
ABDOMEN:  mildly distended, soft, non-tender. Normoactive bowel 
sounds. Large vertical midline surgical scar.
EXTREMITIES: 1+ pitting edema halfway up shins b/l
SKIN: no jaundice
NEUROLOGIC:  oriented to self, ___

DISCHARGE EXAM
==============
VS: T 98.0, BP 110-116/63-68, HR 81-94, RR 18, ___
GENERAL: well-appearing man, lying propped up in bed, NAD. 
Alert. Nasal cannula in place.
HEENT: no scleral icterus, MMM
CARDIAC:  RRR, S1+S2, no M/R/G
PULMONARY:  absent breath sounds over lower ___ R lung, 
otherwise CTAB
ABDOMEN:  mildly distended, soft, non-tender. Normoactive bowel 
sounds. Large vertical midline surgical scar.
EXTREMITIES: trace pitting edema halfway up shins b/l
SKIN: no jaundice
NEUROLOGIC:  no asterixis 
 
Pertinent Results:
ADMISSION LABS
=============
___ 09:50PM   ___ PTT-34.0 ___
___ 09:50PM   PLT COUNT-140*
___ 09:50PM   WBC-11.7* RBC-2.75* HGB-10.1* HCT-29.3* 
MCV-107* MCH-36.7* MCHC-34.5 RDW-14.6 RDWSD-57.1*
___ 09:50PM   HCV VL-5.9*
___ 09:50PM   ALBUMIN-2.3* CALCIUM-7.8* PHOSPHATE-2.8 
MAGNESIUM-1.8
___ 09:50PM   ALT(SGPT)-53* AST(SGOT)-112* ALK PHOS-244* 
TOT BILI-3.7*
___ 09:50PM   GLUCOSE-136* UREA N-14 CREAT-1.2 SODIUM-131* 
POTASSIUM-3.5 CHLORIDE-93* TOTAL CO2-31 ANION GAP-11

MICRO
=====
__________________________________________________________
___ 6:19 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 5:10 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 4:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

DISCHARGE LABS
=============
___ 06:03AM BLOOD WBC-9.2 RBC-2.63* Hgb-9.8* Hct-29.0* 
MCV-110* MCH-37.3* MCHC-33.8 RDW-14.8 RDWSD-60.1* Plt ___
___ 06:03AM BLOOD Plt ___
___ 06:03AM BLOOD ___ PTT-38.6* ___
___ 06:03AM BLOOD Glucose-67* UreaN-12 Creat-1.0 Na-139 
K-4.1 Cl-101 HCO3-30 AnGap-12
___ 06:03AM BLOOD ALT-40 AST-93* AlkPhos-207* TotBili-3.6*
___ 06:03AM BLOOD Albumin-3.0* Calcium-8.7 Phos-3.4 Mg-2.0

IMAGING/STUDIES
==============
___ OR GALLBLADDER US
1. Of note, this is a limited exam due to patient inability to 
cooperate with
breath holding.
2. Within these limitations, the hepatic vasculature appears 
patent.
3. Cirrhotic liver with associated mild-to-moderate perihepatic 
ascites. 
Multiple hypoechoic liver lesions are noted and not well 
characterized on this
exam, but suspicious for hepatomas in this patient with history 
of cirrhosis.
4. Moderate right pleural effusion.

___ (PA & LAT)
Moderate to large right pleural effusion with subjacent 
atelectasis.
 
Brief Hospital Course:
___ with EtOH/HCV cirrhosis Child's class C (complicated by 
ascites, varices, hepatic encephalopathy, SBP, alcoholic 
hepatitis), HCC, EtOH use, and ___ transferred from CHA for a 
difficult-to-manage hepatic hydrothorax and possible COPD 
exacerbation, causing hypoxemia. 

#HYPOXEMIA:
#HEPATIC HYDROTHORAX: Recurrent hepatic hydrothorax over the 
past several months, likely a consequence of portal 
hypertension. Has been difficult to get under control with 
diuresis alone; pt also doesn't have ascites, so paracentesis 
for volume management would not be feasible. Patient sent to 
___ for possible consideration of TIPS for volume management, 
but given Child's class C cirrhosis with MELD 21 and very recent 
EtOH, he is not a candidate for TIPS. He was actively discharged 
during admission. Discharged on Spironolactone 100 mg PO/NG 
DAILY, torsemide 20mg. Will get regularly scheduled outpatient 
thoracenteses as an outpatient.

#EtOH/HCV CIRRHOSIS: Child's class C, MELD-Na 21. History of 
ascites, varices (grade I), hepatic encephalopathy, SBP, 
alcoholic hepatitis. Not on beta blocker for varices because 
they are only grade I. Currently decompensated with hepatic 
hydrothorax. No evidence of HE. Continued home Lactulose 30 mL 
PO/NG BID, Rifaximin 550 mg PO/NG BID, SBP ppx Ciprofloxacin HCl 
500 mg PO/NG Q24H. Discussed with patient coordinating 
reactivation on transplant list, he will meet with transplant 
social work as an outpatient.

#RISING BILIRUBIN: total bilirubin previously between ___ (in 
___, was 3.0 on admission to ___ (___). Peaked at 4.2 and 
trended down. No clear etiology. No evidence of infection this 
admission.

#HCC: noted in ___, initially seen by tumor clinic at ___, 
but apparently was following with team at ___. Was being 
evaluated by ___ for RFA at the time of admission. I reviewed CHA 
records and do not see any notes from GI/hepatology or oncology. 
Will need further work-up as outpatient.

#PRERENAL ARF: with Cr to 1.6 on admission to ___; improved to 
1.0 with diuresis. Baseline Cr 0.7-0.8.

#COPD: no evidence of exacerbation, suspect hypoxia is the 
result of hepatic hydrothorax. Started on Tiotropium Bromide 1 
CAP IH DAILY this admission. Continued Symbicort and PRN 
albuterol neb.

TRANSITIONAL ISSUES
=================
[ ] patient should receive albumin with thoracentesis, 
thoracentesis has been ordered for ___, defer to 
outpatient team to determine if patient requires further 
thoracenteses
[ ] COPD regimen was changed. Ipratropium was added and 
fluticasone was discontinued given that the patient is already 
on an inhaled corticosteroid. 
[ ] send cytology with next thoracentesis (order has been 
placed) 
[ ] needs follow-up with ___ at ___ for management of known ___
[ ] discharge weight: 181.86 kg 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing, SOB 
2. Amphetamine-Dextroamphetamine XR 10 mg PO QAM 
3. Amphetamine-Dextroamphetamine XR 30 mg PO NOON 
4. benzocaine-menthol ___ % topical TID:PRN 
5. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
6. BuPROPion (Sustained Release) 150 mg PO TID 
7. Ciprofloxacin HCl 500 mg PO Q24H 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. FoLIC Acid 1 mg PO DAILY 
10. Lactulose 20 mL PO BID 
11. Magnesium Oxide 400 mg PO DAILY 
12. melatonin 3 mg oral QHS:PRN 
13. Multivitamins 1 TAB PO DAILY 
14. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
15. Rifaximin 550 mg PO BID 
16. Spironolactone 100 mg PO DAILY 
17. Thiamine 100 mg PO DAILY 
18. Torsemide 20 mg PO DAILY 
19. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour apply patch to arm 
daily Disp #*30 Patch Refills:*0 
2.  Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 puff 
INH daily Disp #*1 Inhaler Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing, SOB  
4.  Amphetamine-Dextroamphetamine XR 10 mg PO QAM  
5.  Amphetamine-Dextroamphetamine XR 30 mg PO NOON  
6.  benzocaine-menthol ___ % topical TID:PRN  
7.  budesonide-formoterol 160-4.5 mcg/actuation inhalation BID  
8.  BuPROPion (Sustained Release) 150 mg PO TID  
9.  Ciprofloxacin HCl 500 mg PO Q24H  
10.  FoLIC Acid 1 mg PO DAILY  
11.  Lactulose 20 mL PO BID  
12.  Magnesium Oxide 400 mg PO DAILY  
13.  melatonin 3 mg oral QHS:PRN  
14.  Multivitamins 1 TAB PO DAILY  
15.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  
16.  Pantoprazole 40 mg PO Q24H  
17.  Rifaximin 550 mg PO BID  
18.  Spironolactone 100 mg PO DAILY  
19.  Thiamine 100 mg PO DAILY  
20.  Torsemide 20 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
- pleural effusion secondary to cirrhosis 

Secondary diagnosis:
- alcoholic hepatitis
- COPD 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Why was I here?
- You were short of breath and had a low oxygen level. 
- You were sent here from ___ to help with the 
fluid in your lungs.

What was done while I was here?
- You got water pills to help remove the fluid from your lungs. 
- You got medicine to treat your COPD.
 
What should I do when I get home?
- Take all your medicines as prescribed.
- The radiology department will call you schedule an appointment 
to remove fluid from the lung. If you do not hear from them, 
please contact Dr. ___. 
- Do not ever drink alcohol again. This will kill you!
 
Followup Instructions:
___